US07541372B2
2-Methoxy-3-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 2-methoxynicotinic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=60:20:20 to 0:80:20, 163 mg, 53%) which was obtained as a white solid. MS: m/e=335.3 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2-methoxynicotinic acid | COC1=C(C(=O)O)C=CC=N1 | C7H7NO3
product | 2-Methoxy-3-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 163 mg, 53% | COC1=NC=CC=C1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C18H14N4O3
